US06720423B2
3,3-Dimethyl-7-t-butyl-2,3-dihydro-benzofuran-5-boronic Acid (Intermediate 25)
Following General Procedure A and using 5-bromo-3,3-dimethyl-7-t-butyl-2,3-dihydro-benzofuran (1.42 g, 7 mmol), 15 mL of anhydrous tetrahydrofuran, 1.7M solution of t-butyllithium in n-pentane (8.25 mL, 14 mmol) and trimethyl borate (1.5 mL, 14 mmol), the title compound was obtained as a foam that was used as such for the next step without purification and characterization. 5-Bromo-3,3-dimethyl-7-t-butyl-2,3-dihydro-benzofuran can be prepared as described by Janusz et al. in J. Med. Chem. 1998, 41, 1124-1137.

reactant | 5-bromo-3,3-dimethyl-7-t-butyl-2,3-dihydro-benzofuran | 7 mmol, 1.42 g | BrC=1C=C(C2=C(C(CO2)(C)C)C1)C(C)(C)C | C14H19BrO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | n-pentane | 14 mmol, 8.25 mL | CCCCC | C5H12
reactant | trimethyl borate | 14 mmol, 1.5 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3,3-Dimethyl-7-t-butyl-2,3-dihydro-benzofuran-5-boronic Acid | CC1(COC2=C1C=C(C=C2C(C)(C)C)B(O)O)C | C14H21BO3
